US04500342
14.0 g of 2-amino-4-methoxy-6-methyl-1,3,5-triazine were suspended in 100 ml of dry acetonitrile, and then 0.1 g of 1,4-diazabicyclo[2,2,2]octane was added thereto. To this mixture was added dropwise a solution of 28.5 g of 2-biphenylylsulfonyl isocyanate in 30 ml of xylene over an hour. During this addition, the reaction was accompanied by slight heat generation, and therefore cooling was applied as necessary. After the addition, the reaction was continued at room temperature for 5 hours and then at 40° C. for 5 hours. After allowing the mixture to cool to room temperature, the precipitated colorless crystals were filtered, washed with ether and dried to obtain 33.9 g of N-2-biphenylylsulfonyl-N'-(4-methoxy-6-methyl-1,3,5-triazin-2-yl)urea; m.pt. 190°-193° C.

reactant | 2-amino-4-methoxy-6-methyl-1,3,5-triazine | 14.0 g | NC1=NC(=NC(=N1)OC)C | C5H8N4O
reactant | 2-biphenylylsulfonyl isocyanate | 28.5 g | C1(=C(C=CC=C1)S(=O)(=O)N=C=O)C1=CC=CC=C1 | C13H9NO3S
solvent | acetonitrile | 100 ml | C(C)#N | C2H3N
solvent | xylene | 30 ml | C=1(C(=CC=CC1)C)C | C8H10
catalyst | 1,4-diazabicyclo[2,2,2]octane | 0.1 g | N12CCN(CC1)CC2 | C6H12N2
product | N-2-biphenylylsulfonyl-N'-(4-methoxy-6-methyl-1,3,5-triazin-2-yl)urea | 33.9 g | C1(=C(C=CC=C1)S(=O)(=O)NC(=O)NC1=NC(=NC(=N1)OC)C)C1=CC=CC=C1 | C18H17N5O4S
